US07951874B2
c) Preparation of durylboronic Acid
0.2 mol of 3-bromodurene is reacted in 800 ml of absolute THF by means of 0.25 mol of butyllithium under inert conditions at −78° C. On completion of the BuLi addition, the reaction mixture is stirred at −78° C. for another 1 h and then allowed to thaw. A 2 l flask is then initially charged with 500 ml of absolute ether and 0.3 mol of trimethyl borate at −78° C. and the duryllithium prepared beforehand is added dropwise within a period of 30 min. The mixture is then allowed to thaw and the reaction mixture is stirred for another 12 h. Finally, the reaction mixture is poured onto 2 N HCl-ice mixture and hydrolyzed for 12 h, the organic phase is extracted and concentrated, and the residue is admixed with pentane to precipitate out the product. The product is filtered off with suction and dried under reduced pressure mp: 101-3° C.

reactant | 3-bromodurene | 0.2 mol | BrC1=C(C(C)=CC(=C1C)C)C | C10H13Br
reactant | butyllithium | 0.25 mol | C(CCC)[Li]
reactant | BuLi | [Li]CCCC
reactant | trimethyl borate | 0.3 mol | B(OC)(OC)OC | C3H9BO3
reactant | duryllithium | C1(=C(C)C(C)=CC(C)=C1C)[Li]
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | ether | 500 ml | CCOCC | C4H10O
product | durylboronic Acid | C1(=C(C)C(C)=CC(C)=C1C)B(O)O | C10H15BO2
